US07425568B2
5-Nitro-2-(2-phenyl-2,3-dihydrobenzo[1,4]oxathiin-6-yloxy)pyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) using 269 mg 2-phenyl-2,3-dihydrobenzo[1,4]oxathiin-6-ol. The product was recrystallised from ethanol. 1H NMR (400 MHz, CDCl3) δ: 9.07 (d, 1H, J 2.8 Hz), 8.47 (dd, 1H, J 9.1, 2.8 Hz), 7.43 (m, 4H), 7.37-7.41 (m, 1H), 7.02 (d, 1H, J 9.1 Hz), 6.99 (d, 1H, J 8.9 Hz), 6.95 (d, 1H, J 2.8 Hz), 6.82 (dd, 1H, J 8.9, 2.8 Hz), 5.21 (dd, 1H, J 9.7, 1.9 Hz), 3.31 (dd, 1H, 13.2, 9.7 Hz), 3.11 (dd, 1H, 13.2, 1.9 Hz).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-phenyl-2,3-dihydrobenzo[1,4]oxathiin-6-ol | 269 mg | C1(=CC=CC=C1)C1OC2=C(SC1)C=C(C=C2)O | C14H12O2S
product | 5-Nitro-2-(2-phenyl-2,3-dihydrobenzo[1,4]oxathiin-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=CC2=C(SCC(O2)C2=CC=CC=C2)C1 | C19H14N2O4S
